US07541373B2
4-(2-{2-[3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-4-yl}ethoxy) benzoic acid (19 mg, 96%) was prepared from 4-(2-{2-[3-(2-cyclopentanecarbonyl-4-methylphenyl)-ureido]-thiazol-4-yl}ethoxy) benzoic acid methyl ester (0.020 g, 0.04 mmol) and 2.5M LiOH (20 uL) following the general procedure J.

reactant | 4-(2-{2-[3-(2-cyclopentanecarbonyl-4-methylphenyl)-ureido]-thiazol-4-yl}ethoxy) benzoic acid methyl ester | 0.04 mmol, 0.020 g | COC(C1=CC=C(C=C1)OCCC=1N=C(SC1)NC(=O)NC1=C(C=C(C=C1)C)C(=O)C1CCCC1)=O | C27H29N3O5S
solvent | LiOH | 2.5M, 20 uL | [Li+].[OH-]
product | 4-(2-{2-[3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-4-yl}ethoxy) benzoic acid | 19 mg, 96% | C1(CCCC1)C(=O)C1=C(C=CC(=C1)C)NC(NC=1SC=C(N1)CCOC1=CC=C(C(=O)O)C=C1)=O | C26H27N3O5S
